US07687517B2
3-(6-Nitro-quinolin-2-yl)-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester (intermediate)
Is prepared according to method A from 2-chloro-6-nitroquinoline and 3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester.

reactant | 2-chloro-6-nitroquinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CNCC1CCC2 | C12H22N2O2
product | 3-(6-Nitro-quinolin-2-yl)-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CCC2)C2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C21H26N4O4
